US08278343B2
Preparation 4: 1-(4-Chloro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester (±)
The title compound was prepared according to the method described for Preparation 2 using pyrrolidine-3-carboxylic acid ethyl ester (see Preparation 1) and 4-chloro-benzoyl chloride to afford the title compound as a pale yellow oil (3.02 g, 79%).

reactant | pyrrolidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CNCC1 | C7H13NO2
reactant | 4-chloro-benzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 1-(4-Chloro-benzoyl)-pyrrolidine-3-carboxylic acid ethyl ester | 3.02 g, 79% | C(C)OC(=O)C1CN(CC1)C(C1=CC=C(C=C1)Cl)=O | C14H16ClNO3
